US09233946B2
3-{[(5-Isoxazol-3-yl-2-thienyl)sulfonyl]amino}benzoic acid
The product was prepared according to General Procedure 6, described in Example 65, with 5-isoxazol-3-ylthiophene-2-sulfonyl chloride (13.7 mg, 0.055 mmol) and 3-aminobenzoic acid (6.9 mg, 0.050 mmol). The title compound was obtained in 55% yield (9.6 mg). MS (ESI+) calcd mass for C14H10N2O5S2 350.003113, found 350.002783.

reactant | 5-isoxazol-3-ylthiophene-2-sulfonyl chloride | 0.055 mmol, 13.7 mg | O1N=C(C=C1)C1=CC=C(S1)S(=O)(=O)Cl | C7H4ClNO3S2
reactant | 3-aminobenzoic acid | 0.050 mmol, 6.9 mg | NC=1C=C(C(=O)O)C=CC1 | C7H7NO2
product | 3-{[(5-Isoxazol-3-yl-2-thienyl)sulfonyl]amino}benzoic acid | 55% yield | O1N=C(C=C1)C1=CC=C(S1)S(=O)(=O)NC=1C=C(C(=O)O)C=CC1 | C14H10N2O5S2
